US07968573B2
To a solution of 6.05 g of 1-(2-chloro-3-pyridinyl)-1H-pyrrole-2-carbaldehyde in 20 ml of N,N-dimethylformamide was added 5.72 g of N-bromosuccinimide. The resulting mixture was stirred at room temperature for 1 hour. Water was poured into the reaction mixture, and a deposited precipitate was collected by filtration to obtain 4.22 g of 4-bromo-1-(2-chloro-3-pyridinyl)-1H-pyrrole-2-carbaldehyde of the formula:

reactant | 1-(2-chloro-3-pyridinyl)-1H-pyrrole-2-carbaldehyde | 6.05 g | ClC1=NC=CC=C1N1C(=CC=C1)C=O | C10H7ClN2O
reactant | N-bromosuccinimide | 5.72 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 4-bromo-1-(2-chloro-3-pyridinyl)-1H-pyrrole-2-carbaldehyde | 4.22 g | BrC=1C=C(N(C1)C=1C(=NC=CC1)Cl)C=O | C10H6BrClN2O
